US05169857
Methyl 2-cyanoethyl 1,4-dihydro-2,6-dimethyl-4-(4-fluorophenyl)-pyridine-3,5-dicarboxylate
15.4 g (0.1 mol) of 2-cyanoethyl 3-aminocrotonate, 12.4 g (0.1 mol) of p-fluorobenzaldehyde and 11.6 g of methyl acetoacetate are heated overnight under reflux in 150 ml of ethanol. After removing the solvent on a rotary evaporator, the residue is taken up in ethyl acetate, washed with water, dried and 33.8 g of crude product are obtained after removing the solvent in vacuo.

reactant | 2-cyanoethyl 3-aminocrotonate | 0.1 mol, 15.4 g | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
reactant | p-fluorobenzaldehyde | 0.1 mol, 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | methyl acetoacetate | 11.6 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Methyl 2-cyanoethyl 1,4-dihydro-2,6-dimethyl-4-(4-fluorophenyl)-pyridine-3,5-dicarboxylate | 33.8 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC=C(C=C1)F)C(=O)OCCC#N)C | C19H19FN2O4
